US06498172B1
(3-Aminomethyl-phenoxy)-acetic acid tert-butyl ester
(3-Hydroxyimino-methyl)-phenoxy)-acetic acid tert-butyl ester. To a solution of (3-formyl-phenoxy)-acetic acid tert-butyl ester prepared of Preparation 20, Step A (2.05 g, 8.68 mmol) in MeOH (30 mL) was added NH2OH.HCl (0.66 g, 9.54 mmol) and pyridine (3.5 mL, 43.4 mmol) and the reaction was stirred for 2 hours. The MeOH was removed in vacuo and the residue was diluted with EtOAc and 1N HCl. The layers were separated and the aqueous solution was washed with EtOAc. The combined organic layers were dried over MgSO4, filtered and concentrated in vacuo to afford the title compound of Step B (1.99 g). 1H NMR (400 MHz, CDCl3) δ 8.07 (s, 1H), 7.23-7.28 (m, 2H), 7.12 (m, 1H), 6.93 (d, 1H), 4.51 (s, 2H), 1.46 (s, 9H).

reactant | acetic acid tert-butyl ester | C(C)(C)(C)OC(C)=O | C6H12O2
reactant | (3-formyl-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)C=O)=O | C13H16O4
reactant | NH2OH.HCl | 9.54 mmol, 0.66 g | NO.Cl
reactant | pyridine | 43.4 mmol, 3.5 mL | N1=CC=CC=C1 | C5H5N
solvent | MeOH | 30 mL | CO | CH4O
product | (3-Aminomethyl-phenoxy)-acetic acid tert-butyl ester | 1.99 g | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN)=O | C13H19NO3
